simulator lang=spectre
global 0
ahdl_include "auxiliary_fll.va"
ahdl_include "bias_control.va"
ahdl_include "charge_pump.va"
ahdl_include "even_divider.va"
ahdl_include "lc_vco.va"
ahdl_include "loop_filter.va"
ahdl_include "output_buffer.va"
ahdl_include "output_retimer.va"
ahdl_include "pll_monitor.va"
ahdl_include "reference_buffer.va"
ahdl_include "subsampling_detector.va"

parameters vddval=1.2
VDD (vdd 0) vsource dc=vddval
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27

VC (clk 0) vsource type=pulse val0=0 val1=1.2 period=250p width=123p rise=2p fall=2p delay=20p
VM (ratio 0) vsource dc=4
VE (en 0) vsource dc=1.2
XD (clk ratio en data vdd 0) even_divider td=50p
XR (data clk en out violations vdd 0) output_retimer
tran tran stop=50n errpreset=conservative maxstep=10p
save clk data out violations
saveOptions options save=selected
